US06015826
3-(2,6-dichlorophenyl)-5-(5-bromothien-2-yl)-1-methyl[1,2,4]triazole (Compound 47)
3-(2,6-dichlorophenyl)-5-(thien-2-yl)-1-methyl-[1,2,4]triazole (75 mg, 0.242 mmol) and bromine (39 mg, 0.242 mmol) were combined in glacial acetic acid (3 mL) and the mixture was stirred overnight at room temperature, then heated to 95° C. for five hours. The reaction mixture was poured into a saturated sodium bicarbonate solution, extracted with ether, and dried over magnesium sulfate. Chromatography (SiO2, 25% Hex-CH2Cl2) delivered the title product as a waxy white solid. MP 130-132° C.

reactant | 3-(2,6-dichlorophenyl)-5-(thien-2-yl)-1-methyl-[1,2,4]triazole | 0.242 mmol, 75 mg | ClC1=C(C(=CC=C1)Cl)C1=NN(C(=N1)C=1SC=CC1)C | C13H9Cl2N3S
reactant | bromine | 0.242 mmol, 39 mg | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 3-(2,6-dichlorophenyl)-5-(5-bromothien-2-yl)-1-methyl[1,2,4]triazole | ClC1=C(C(=CC=C1)Cl)C1=NN(C(=N1)C=1SC(=CC1)Br)C | C13H8BrCl2N3S
